US07498358B2
A mixture of 3,4,5-trifluoronitrobenzene (20.0 g, 113 mmol, commercially available from AsymChem of Durham, N.C.), dry DMF (100 ml), 4-fluorophenol (13.9 g, 124 mmol), and Cs2CO3 (56 g, 172 mmol) was stirred under N2 at 60-70° C. for 1-2 hrs. After cooling to room temperature, the reaction mixture was partitioned between H2O and EtOAc. The phases were separated and the aqueous phase was further extracted with EtOAc (2×). The EtOAc extractions were washed with sat'd NaCl (1×), dried over Na2SO4, and concentrated in vacuo to give 4-(4-fluorophenoxy)-3,5-difluoronitrobenzene (32.0 g, 105%) which was used in the next step without further purification. 1H NMR (DMSO-d6): δ 7.15 (m, 2H), 7.22 (m, 2H), 8.31 (d, 2H, J=7.6 Hz).

reactant | 3,4,5-trifluoronitrobenzene | FC=1C=C(C=C(C1F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | 4-fluorophenol | 124 mmol, 13.9 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | Cs2CO3 | 172 mmol, 56 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(4-fluorophenoxy)-3,5-difluoronitrobenzene | 32.0 g, 105% | FC1=CC=C(OC2=C(C=C(C=C2F)[N+](=O)[O-])F)C=C1 | C12H6F3NO3
